US05216020
Step G: Preparation of 2,3-Dihydro-2-methylthieno[2,3-b]thiophene-2-carboxamide-1,1-dioxide
Carbonyldiimidazole (13.3 g, 82.0 mmol) was added to a solution of 2,3-dihydro-2-methylthieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide (12.7 g, 54.7 mmol) in dry, degassed DMF (200 mL). The reaction was stirred under N2 until an aliquot quenched with methanol showed no more starting material by tlc (about 1 h). An excess of a saturated solution of NH3 (g) in CHCl3 was added and the reaction stirred 1.5 h. The reaction was diluted with water and extracted with ethyl acetate 3X. The combined organic extracts were washed with brine and dried over MgSO4, filtered, and the solvent removed in vacuo to give a semi-solid. This semi-solid was treated with dichloroethane, cooled in the freezer, and filtered to give the title compound (6.69 g, 53%). 1H NMR (300 MHz,DMSO-d6) 1.70(s,3H), 3.00(d, 1H), 3.85(d,1H), 7.10(d,1H), 7.63(bs,1H exch.), 7.69(bs,1 H, exch.), 8.05(d,1H).

reactant | Carbonyldiimidazole | 82.0 mmol, 13.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,3-dihydro-2-methylthieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide | 54.7 mmol, 12.7 g | CC1(CC2=C(SC=C2)S1(=O)=O)C(=O)O | C8H8O4S2
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2,3-Dihydro-2-methylthieno[2,3-b]thiophene-2-carboxamide-1,1-dioxide | 6.69 g, 53% | CC1(CC2=C(SC=C2)S1(=O)=O)C(=O)N | C8H9NO3S2
